***********************************************************************
* Model name: driver
* Gate driver switching model suitable for both low-side and high-side
* power MOSFETs. When used with a low-side source-grounded power MOSFET
* the driver Vss and Vssin pins should both be tied to the common circuit
* ground. When used with a high-side power MOSFET, Vss should be tied to
* the source terminal of the power MOSFET, Vdd-Vss should be supplied from a
* floating power supply or from a bootstrap circuit, and Vssin should be
* tied to the common circuit ground.
*****************************************************************
* Parameters:
*    Imax = maximum driver output current (approximately)
*    IQ = quiescent current consumed by the driver
*    Tdelay = propagation delay of the driver
*    Vuvl = undervoltage lockout, driver outputs zero if Vdd-Vss < Vuvl
*****************************************************************
* Nodes:
* c: input signal, should be 0 (logic low) or 5 (logic high)
* Vdd: positive power supply voltage
* Vss: ground for the power supply, typically connected to
* Vssin: ground for the control signal, typically tied to the common circuit ground
* out: driver output
**********************************************************
.subckt driver c Vdd Vss Vssin out
M2 out gate Vss Vss NMOS; output power-stage PMOS
M1 out gate Vdd Vdd PMOS; output power-stage NMOS
B1 gate Vss V=if(v(cdelayed)-v(Vss)>2.5 & v(Vdd)-v(Vss)>{Vuvl}, 0, v(Vdd)-v(Vss))
Ibias Vdd Vss {IQ}; bias current sink
E1 cisolated Vss c Vssin 1; controlled source models isolation between control input and driver output
R1 cisolated cdelayed {Rdelay}; RC delay model
C1 cdelayed Vss {Cdelay}; RC delay model
.param Imax=3A
.param Vuvl = 9V
.param IQ = 1mA
.param Tdelay = 30ns
**************************
.param Vddrated = 12V
.param VT = 2V
.param Rdelay=100
.param Cdelay={Tdelay/Rdelay/0.69}
.model NMOS NMOS (LEVEL=1 VTO={VT} KP={2*Imax/(Vddrated-VT)/(Vddrated-VT)})
.model PMOS PMOS (LEVEL=1 VTO=-{VT} KP={1.4*Imax/(Vddrated-VT)/(Vddrated-VT)})
**************************
.ends driver
***********************************************************************

***********************************************************************
* Model name: PWM
* Pulse-width modulator (trailing-edge) switching model
***********************************************************************
* Parameters:
*    fs = switching frequency
*    VM = amplitude of the saw-tooth waveform
*    Dmin = minimum possible duty cycle (0 <= Dmin < Dmax < 1)
*    Dmax = maximum possible duty cycle
*    Voffset = offset voltage in the saw-tooth waveform, Voffset >= 0
*    Voffset + VM must be less than 5V
***********************************************************************
* Nodes:
* vc: control input voltage, must be between 0 and 5V
* c: PWM output 0-5V control signal, referenced to common circuit graound
*    this signal is typically connected to the input of a gate driver
***********************************************************************
.subckt PWM vc c
A1 reset clk 0 0 0 c 0 0 SRFLOP Vhigh=7
XU1 sawtooth vc Vdd5V 0 comp_out LTC6752
V3 Vdd5V 0 7
Vclk clk 0 PULSE(0 7 0 1n 1n {Dmin/fs} {1/fs})
Vsawtooth sawtooth 0 PULSE({Voffset} {Voffset+VM} 0 {0.99/fs} {(0.01)/fs} 0 {1/fs})
A2 comp_out clk_dmax 0 0 0 0 reset 0 OR Vhigh=7
Vclk_Dmax clk_dmax 0 PULSE(0 7 {Dmax/fs} 1n 1n {(1-Dmax)/fs} {1/fs})
.param Dmin=0
.param Dmax=0.9
.param fs=100kHz
.param VM=1
.param Voffset=0
****************************
.lib LTC7.lib
*****************************
.ends PWM
***********************************************************************


***********************************************************************
* Model name: dead_time
* Dead-time circuit takes a PWM control signal c having duty cycle D
* to generate two complementary non-overlapping
* control signals c1 (with duty cycle D1) and c2 (with duty cycle D2).
* Both c1 and c2 are logic low during dead times Td.
* D1 = D - Td/Ts
* D2 = D' - Td/Ts
* The dead-time circuit is typically used in
* synchronous buck converters, as well as in half-bridge
* and full-bridge converters.
* The input and output signals are 0-to-5V
*****************************************************************
* Parameters:
*    Td = dead-time
*****************************************************************
* Nodes:
* c: input PWM signal, 0 (logic low) or 5 (logic high)
* c1, c2: output complementary, non-overlapping PWM signals (0-5V)
.subckt dead_time c c1 c2
A11 c 0 0 0 0 0 cc 0 BUF Vhigh = 5
R1 cc cd 1k
C1 cd 0 {Td/693}
D1 cd cc D
A12 cd 0 0 0 0 0 c1 0 BUF Vhigh = 5
A21 c 0 0 0 0 cb 0 0 BUF Vhigh =5
R2 cb cbd 1k
C2 cbd 0 {Td/693}
D2 cbd cb D
A22 cbd 0 0 0 0 0 c2 0 BUF Vhigh = 5
.param Td = 100ns
*****************************
.model D D
*****************************
.ends dead_time
***********************************************************************
